US07915267B2
methyl N-[(3′-cyanobiphenyl-4-yl)sulfonyl]valinate
A suspension of methyl N-[(4-bromophenyl)sulfonyl]valinate obtained in Reference Example 92 (5.00 g, 14.3 mmol), (3-cyanophenyl)boronic acid (2.52 g, 17.1 mmol), tetrakis(triphenylphosphine)palladium (0.330 g, 0.286 mmol) and 2N aqueous sodium carbonate solution (8.57 mL, 17.1 mmol) in EtOH (15 mL)-toluene (50 mL) was heated under reflux for 8 hr under nitrogen atmosphere. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, and dried over sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was crystallized from hexane-ethyl acetate to give the title compound as a yellow powder (5.18 g, 97%).

reactant | methyl N-[(4-bromophenyl)sulfonyl]valinate | BrC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(C)C)C(=O)OC | C12H16BrNO4S
reactant | (3-cyanophenyl)boronic acid | 17.1 mmol, 2.52 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | sodium carbonate | 17.1 mmol, 2N, 8.57 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 15 mL | CCO | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.286 mmol, 0.330 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl N-[(3′-cyanobiphenyl-4-yl)sulfonyl]valinate | 5.18 g, 97% | C(#N)C=1C=C(C=CC1)C1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(C)C)C(=O)OC | C19H20N2O4S
